US06110936
tert-Butyldimethylsilyloxyacetyl Chloride
Glycolic acid (5.0 g, 66 mmol) in pyridine (65 ml) was purged with argon and then treated with tert-butyldimethylsilyl trifluoromethanesulfonate (42 g, 36 ml, 158 mmol) at 0° C., and the mixture was stirred for 2.5 hours. The 2-phase mixture was separated and the upper phase diluted with diethyl ether. This solution was cooled to 0° C., washed briefly with 10% hydrochloric acid, dried (MgSO4) and evaporated to the disilyl material (18 g, 97%). The disilyl material (3.48 g, 12.4 mmol) in dichloromethane (30 ml) at 0° C. was treated with DMF (6 drops) followed by oxalyl chloride (1.84 g, 1.30 ml, 14.50 mmol). After stirring for 3.5 hours, the solution was evaporated and the crude material purified by bulb-to-bulb distillation to afford the title product (60 mbar, 120° C.<T<150° C.) (0.95 g, 37%) contaminated with tert-butyldimethylsiloxane.

reactant | Glycolic acid | 66 mmol, 5.0 g | C(CO)(=O)O | C2H4O3
reactant | tert-butyldimethylsilyl trifluoromethanesulfonate | 158 mmol, 36 ml, 42 g | FC(S(=O)(=O)O[Si](C)(C)C(C)(C)C)(F)F | C7H15F3O3SSi
reactant | oxalyl chloride | 14.50 mmol, 1.30 ml, 1.84 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | pyridine | 65 ml | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
catalyst | DMF | 6 drops | CN(C)C=O | C3H7NO
product | tert-Butyldimethylsilyloxyacetyl Chloride | 0.95 g, 37% | [Si](C)(C)(C(C)(C)C)OCC(=O)Cl | C8H17ClO2Si
